US07358248B2
(2R)-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfanyl]-2-tert-butoxy-carbonylamino-propionic acid
1N Sodium hydroxide (2 mL) was added to a stirred solution of (2R)-methyl-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfanyl]-2-tert-butoxycarbonylamino-propionate (100 mg) in a mixture of tetrahydrofuran (6 mL) and methanol (2 mL). The solution was stirred for 1 hour and then acidified to pH 3 with 1N hydrochloric acid. The reaction mixture was extracted with ethyl acetate (3×10 mL). The combined extract was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 5% methanol in methylene chloride as eluent, afforded the title compound as a white solid (82 mg, 84%): mp. 89-90° C. Rf=0.50 (10% methanol in dichloromethane). 1H NMR (DMSO-d6, 300 MHz) δ 7.8 (2H, d, J=9 Hz, Ar—H), 7.6 (6H, m, Ar—H), 7.4 (2H, d, J=9 Hz, Ar—H), 7.28 (5H, m, Ar—H), 7.21 (2H, d, J=8 Hz, Ar—H), 6.42 (1H, d, J=8 Hz, NH), 4.26 (2H, s, PhCH2), 3.95 (1H, m, CHN), 3.75 (2H, s, PhCH2S), 2.9 (1H, dd, J=15, 5 Hz, CHHCHN), 2.74 (1H, dd, J=15, 8 Hz, CHHCHN), 1.39 (9H, s, tBu); ESI-LCMS e/z calcd for C36H35NO5S 593.74, found 617 (M+Na)+.

reactant | Sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | (2R)-methyl-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfanyl]-2-tert-butoxycarbonylamino-propionate | 100 mg | COC([C@H](CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)CC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O | C37H37NO5S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | (2R)-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfanyl]-2-tert-butoxy-carbonylamino-propionic acid | 82 mg, 84% | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)CSC[C@@](C(=O)O)(OC(C)(C)C)N=C=O)C=C1)C=CC=C2 | C36H33NO5S
